US06103910
b) (R)-1-[3-[[3-[(R)-2-Carboxy-pyrrolidin-1-yl]-3-oxo-propyl]-cyclopropylmethyl-amino]-propionyl]-pyrrolidine-2-carboxylic acid
A solution of 220 mg (0.37 mmol) (R)-1-[3-[[3-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-cyclopropylmethyl-amino]-propionyl]-pyrrolidine-2-carboxylic acid benzyl ester in 20 ml isopropanol was stirred with 10 mg 10% palladium on charcoal under 1 atm of hydrogen for 16 h at room temperature. After filtration to remove the catalyst, concentration in vacuo afforded 153 mg (100%) of the title compound as a yellow solid.

reactant | (R)-1-[3-[[3-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-cyclopropylmethyl-amino]-propionyl]-pyrrolidine-2-carboxylic acid benzyl ester | 0.37 mmol, 220 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CCN(CC1CC1)CCC(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)=O | C34H43N3O6
reactant | hydrogen | [H][H] | H2
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
catalyst | palladium on charcoal | 10 mg | [Pd] | Pd
product | (R)-1-[3-[[3-[(R)-2-Carboxy-pyrrolidin-1-yl]-3-oxo-propyl]-cyclopropylmethyl-amino]-propionyl]-pyrrolidine-2-carboxylic acid | 153 mg, 100% | C(=O)(O)[C@@H]1N(CCC1)C(CCN(CCC(=O)N1[C@H](CCC1)C(=O)O)CC1CC1)=O | C20H31N3O6
